US05434165
3-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]amino-4-nitroquinoline
3-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]amino- 4-nitroquinoline 1-oxide and phosphorus trichloride were reacted in the same manner as in Example 6 to obtain the titled compound in a yield of 66.3%.

reactant | 3-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]amino- 4-nitroquinoline 1-oxide | N12CCCC2(CCC1)CCNC=1C=[N+](C2=CC=CC=C2C1[N+](=O)[O-])[O-] | C18H22N4O3
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
product | 3-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]amino-4-nitroquinoline | yield of 66.3% | N12CCCC2(CCC1)CCNC=1C=NC2=CC=CC=C2C1[N+](=O)[O-] | C18H22N4O2
